US04460596
53.9 g of 5-(2-thienyl)-4-methoxycarbonyloxazole and 200 ml of 6N hydrochloric acid are treated in the same manner as described in Preparation 1-(2). 42.5 g of N-[(2-thienylcarbonyl)methyl]amine hydrochloride are thereby obtained. Yield: 93%

reactant | 5-(2-thienyl)-4-methoxycarbonyloxazole | 53.9 g | S1C(=CC=C1)C1=C(N=CO1)C(=O)OC | C9H7NO3S
reactant | hydrochloric acid | 6N, 200 ml | Cl | ClH
product | N-[(2-thienylcarbonyl)methyl]amine hydrochloride | 42.5 g, Yield: 93% | Cl.S1C(=CC=C1)C(=O)CN | InChI=1S/C6H7NOS.ClH/c7-4-5(8)6-2-1-3-9-6;/h1-3H,4,7H2;1H
